US06858651B2
A solution of 975 mg (3.28 mmol) of trans-[4-(2,2-Dibromo-vinyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester in 20 ml CH2Cl2 was treated at 0° C. with 10 ml TFA (for 20 min). After 2 h at RT, the reaction was evaporated, treated with aqueous saturated NaHCO3(+Na2CO3)/Et2O (3×), dried over Na2SO4 and evaporated to yield 981 mg (87%) of trans-[4-(2,2-Dibromo-vinyl)-cyclohexyl]-methyl-amine, MS: 295 (M, 2Br).

reactant | trans-[4-(2,2-Dibromo-vinyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | 3.28 mmol, 975 mg | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)C=C(Br)Br)=O | C14H23Br2NO2
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | trans-[4-(2,2-Dibromo-vinyl)-cyclohexyl]-methyl-amine | 981 mg, 87% | BrC(=C[C@@H]1CC[C@H](CC1)NC)Br | C9H15Br2N
